US09284323B2
To a solution of N-chlorosuccinimide (8.02 g, 60.05 mmol) in dichloromethane (475 mL) at −78° C. was added zirconium(IV) chloride (2.80 g, 12.01 mmol), followed by 3-methyl-naphthalen-2-ol (CombiBlocks, 9.5 g, 60.05 mmol) under argon. The reaction mixture was stirred at −78° C. for 5 minutes, the cooling bath was removed and the reaction was stirred at room temperature for 5 h. The reaction was quenched with saturated sodium bicarbonate solution and stirred for 5 minutes. The mixture was diluted with H2O, extracted with dichloromethane (3×) and the combined organic layer was dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give 1-chloro-3-methyl-naphthalen-2-ol. 1H NMR (400 MHz, CDCl3) δ 8.01 (d, J=8.2 Hz, 1H), 7.72 (d, J=8.2 Hz, 1H), 7.54 (s, 1H), 7.52 (dd, J=8.2, 8.2 Hz, 1H), 7.36 (dd, J=8.2, 8.2 Hz, 1H), 5.99 (s, 1H), 2.47 (s, 3H).

reactant | N-chlorosuccinimide | 60.05 mmol, 8.02 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-methyl-naphthalen-2-ol | 60.05 mmol, 9.5 g | CC=1C(=CC2=CC=CC=C2C1)O | C11H10O
solvent | dichloromethane | 475 mL | ClCCl | CH2Cl2
catalyst | zirconium(IV) chloride | 12.01 mmol, 2.80 g | [Cl-].[Zr+4].[Cl-].[Cl-].[Cl-]
product | 1-chloro-3-methyl-naphthalen-2-ol | ClC1=C(C(=CC2=CC=CC=C12)C)O | C11H9ClO
